US07250515B2
The mixture of 4-(2-cyano-2-ethoxycarbonyl-vinylamino)-benzoic acid ethyl ester (55 g, 0.19 mol) in diphenyl ether (300 mL) was stirred under reflux for 4 h. HPLC showed all the starting material disappeared. After cooling to 40° C., the solution was poured into petroleum ether (1000 mL). The solid was filtered, washed with petroleum ether, ethyl acetate and dried to give 3-cyano-4-oxo-1,4-dihydro-quinoline-6-carboxylic acid ethyl ester as a brown solid (39 g, 85%). HPLC showed 90% purity. LC-MS m/e 243 (MH+)

reactant | 4-(2-cyano-2-ethoxycarbonyl-vinylamino)-benzoic acid ethyl ester | 0.19 mol, 55 g | C(C)OC(C1=CC=C(C=C1)NC=C(C(=O)OCC)C#N)=O | C15H16N2O4
solvent | diphenyl ether | 300 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-cyano-4-oxo-1,4-dihydro-quinoline-6-carboxylic acid ethyl ester | 39 g, 85% | C(C)OC(=O)C=1C=C2C(C(=CNC2=CC1)C#N)=O | C13H10N2O3
